US09290490B2
To a solution of N-[3-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-4-(trifluoromethyl)pyrimidin-2-amine (80 g, 211.08 mmol) in 1,4-dioxane (800 mL) was added 5-bromo-1,3-thiazole (28 g, 171.78 mmol), Pd(dppf)Cl2 (8 g, 10.62 mmol) and a solution of sodium carbonate (44.7 g, 421.70 mmol) in water (447 mL). The resulting solution was heated to reflux for 1 hour. Then it was allowed to cool to room temperature and was concentrated in vacuo. The residue was diluted with EtOAc (500 mL) and filtered. The filtrate was washed with brine (2×300 mL) and water (2×300 mL). The organic layer was dried over anhydrous sodium sulfate and concentrated in vacuo. The crude product was recrystallized from EtOAc:DCM in the ratio of 1:5 to afford a portion of product. The mother liquor was applied onto a silica gel column and eluted with dichloromethane/ethyl acetate (2:1) to afford N-[3-methyl-5-(1,3-thiazol-5-yl)phenyl]-4-(trifluoromethyl)pyrimidin-2-amine as a pale yellow solid. MS ESI calc'd for C15H12F3N4S [M+H]+ 337. found 337. 1H NMR (400 MHz, CD3COCD3) δ 9.21 (1H, s), 8.97 (1H, s), 8.84 (1H, d, J=4.8 Hz), 8.21 (2H, m), 7.64 (1H, s), 7.25-7.26 (2H, m), 2.41 (3H, s). rhSyk activity=+++.

reactant | N-[3-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-4-(trifluoromethyl)pyrimidin-2-amine | 211.08 mmol, 80 g | CC=1C=C(C=C(C1)B1OC(C(O1)(C)C)(C)C)NC1=NC=CC(=N1)C(F)(F)F | C18H21BF3N3O2
reactant | 5-bromo-1,3-thiazole | 171.78 mmol, 28 g | BrC1=CN=CS1 | C3H2BrNS
reactant | sodium carbonate | 421.70 mmol, 44.7 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,4-dioxane | 800 mL | O1CCOCC1 | C4H8O2
solvent | water | 447 mL | O | H2O
catalyst | Pd(dppf)Cl2 | 10.62 mmol, 8 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N-[3-methyl-5-(1,3-thiazol-5-yl)phenyl]-4-(trifluoromethyl)pyrimidin-2-amine | CC=1C=C(C=C(C1)C1=CN=CS1)NC1=NC=CC(=N1)C(F)(F)F | C15H11F3N4S
